US04312876
Trans-1-cyclopropylcarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine
To a mixture of 5.42 g of trans-4-(4-fluorophenoxy)-3-phenylpiperidine, 3.06 ml of triethylamine and 150 ml of chloroform is added, dropwise at room temperature under nitrogen, a solution of 2.0 ml of cyclopropylcarbonyl chloride in 100 ml of chloroform over a 20 minute period. A cold water bath is used to keep the temperature below 30° C. during the addition. After 105 minutes the reaction mixture is treated with 150 ml of water. After several minutes of vigorous stirring, the phases are separated and the chloroform phase is washed with 2 N hydrochloric acid (100 ml), saturated sodium chloride solution (150 ml), dried overnight over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil which solidifies upon trituration with hexane. Recrystallization from 75 ml of boiling cyclohexane affords product as nearly colorless crystals, mp 113°-115° C.

reactant | trans-4-(4-fluorophenoxy)-3-phenylpiperidine | 5.42 g | FC1=CC=C(O[C@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | C17H18FNO
reactant | triethylamine | 3.06 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropylcarbonyl chloride | 2.0 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | 150 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
product | Trans-1-cyclopropylcarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine | C1(CC1)C(=O)N1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C21H22FNO2
